US04182773
2-(5-acetoxypentyl)-cyclopentanone
300 g of 1-(5-acetoxypentyl)-2-oxo-cyclopentane-carboxylic acid ethyl ester were refluxed for 5 hours in 1.5 l of acetic acid, 600 ml of water and 300 g of sulfuric acid. Subsequently, the solution was concentrated under reduced pressure, 1liter of semi-saturated sodium chloride solution was added, and the solution was extracted with acetic acid ethyl ester. The organic phase was washed with 500 ml of saturated sodium chloride solution and dried over sodium sulfate. 50 ml of acetic anhydride were added, and the whole was refluxed for 4 hours. The solvent was distilled off under reduced pressure and the residue was subjected to fractional distillation under reduced pressure in a column having a height of 30 cm.

reactant | 1-(5-acetoxypentyl)-2-oxo-cyclopentane-carboxylic acid ethyl ester | 300 g | C(C)OC(=O)C1(C(CCC1)=O)CCCCCOC(C)=O | C15H24O5
reactant | water | 600 ml | O | H2O
reactant | sulfuric acid | 300 g | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 1.5 l | C(C)(=O)O | C2H4O2
product | 2-(5-acetoxypentyl)-cyclopentanone | C(C)(=O)OCCCCCC1C(CCC1)=O | C12H20O3
